US08466282B2
Tert-butyl (3S,5R)-3-[(2-methylpropyl){[1-(2-phenylethyl)-1H-indol-2-yl]carbonyl}amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
Methyl 1-(2-phenylethyl)-1H-indole-2-carboxylate (318 mg) was dissolved in methanol (5 ml), 2M aqueous sodium hydroxide solution (1.14 ml) was added, and the mixture was stirred at room temperature for 17 hr. The aqueous layer was adjusted to pH 7 with 1M hydrochloric acid, saturated brine was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give 1-(2-phenylethyl)-1H-indole-2-carboxylic acid (300 mg). The obtained 1-(2-phenylethyl)-1H-indole-2-carboxylic acid (300 mg), 1-tert-butyl 3-methyl(3R,5S)-5-[(2-methylpropyl)amino]piperidine-1,3-dicarboxylate (185 mg) and diisopropylethylamine (431 μl) were dissolved in methylene chloride (5 ml), chloro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate (168 mg) was added, and the mixture was stirred at room temperature for 15 hr. Aqueous sodium bicarbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give the object product (83 mg).

reactant | 1-(2-phenylethyl)-1H-indole-2-carboxylic acid | 300 mg | C1(=CC=CC=C1)CCN1C(=CC2=CC=CC=C12)C(=O)O | C17H15NO2
reactant | 1-tert-butyl 3-methyl(3R,5S)-5-[(2-methylpropyl)amino]piperidine-1,3-dicarboxylate | 185 mg | CC(CN[C@H]1C[C@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC)C | C16H30N2O4
reactant | diisopropylethylamine | 431 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate | 168 mg | F[P-](F)(F)(F)(F)F.ClC(=[N+](C)C)N(C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | Tert-butyl (3S,5R)-3-[(2-methylpropyl){[1-(2-phenylethyl)-1H-indol-2-yl]carbonyl}amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 83 mg | CC(CN([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)C(=O)C=1N(C2=CC=CC=C2C1)CCC1=CC=CC=C1)C | C36H48N4O5
